US05167949
2-Methoxymethyl-4(3H)-pteridinone
Obtained using the procedure described in Example 1, starting with 11.7 g (0.085 mole) of 3-amino-2-pyrazinecarboxamide, 73.0 g (0.38 mole) of triethyl orthomethoxyacetate [prepared according to E. T. Stiller, U.S. Pat. No. 2,422,598; C.A. 1947, 41, 5904a] and 75 ml of acetic anhydride. Yld: 12.3 g (75%), m.p. 187°-189° C. (ethanol).

reactant | 3-amino-2-pyrazinecarboxamide | 0.085 mole, 11.7 g | NC=1C(=NC=CN1)C(=O)N | C5H6N4O
reactant | acetic anhydride | 75 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethanol | C(C)O | C2H6O
product | 2-Methoxymethyl-4(3H)-pteridinone | COCC1=NC2=NC=CN=C2C(N1)=O | C8H8N4O2
